US04289769
A mixture of 15.0 g. of 4-carboxybenzaldehyde, 17.0 g. of N,N'-carbonyldiimidazole and 150 ml. of tetrahydrofuran is allowed to stand at room temperature for one hour. Dimethylamine is passed thru the above solution for one hour and the reaction mixture is allowed to stand at room temperature for 18 hours, then is heated at reflux temperature for one hour. Water is added and the solvent is distilled off. The residue is extracted with methylenechloride. The organic layer is washed with dilute hydrochloric acid and water, dried over magnesium sulfate and concentrated to an oil. The oil is triturated with a little methylene chloride and the insoluble material is filtered off. The mother liquor is concentrated and 7.9 g. of p-formyl-N,N-dimethylbenzamide is obtained as an oil.

reactant | 4-carboxybenzaldehyde | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | Dimethylamine | CNC | C2H7N
solvent | Water | O | H2O
product | p-formyl-N,N-dimethylbenzamide | C(=O)C1=CC=C(C(=O)N(C)C)C=C1 | C10H11NO2
